US06166219
Triethylamine (0.060 g) and 0.084 g of butyryl chloride were added to a solution of 0.300 g of N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino)benzamide in 2 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was directly purified through silica-gel column chromatography to obtain 0.250 g of N-benzenesulfonyl-3-(biphenyl-4-ylmethylamino)-4-butyrylaminobenzamide. To this compound were added 5 ml of methanol and 0.50 g of 35% hydrochloric acid, and the mixture was stirred at 60° C. for 3 hours. Then, 20% potassium hydrogencarbonate was added thereto to stop the reaction, and the reaction solution was extracted with ethyl acetate and with water. The organic layer was concentrated, and the product was dissolved in a small amount of chloroform. Ether was added thereto for crystallization. The crystals precipitated were separated through filtration, and were dried to give 0.157 g of 6-benzenesulfonylcarbamoyl-1-(biphenyl-4-ylmethyl)-2-n-propylbenzimidazole potassium salt (232).

reactant | Triethylamine | 0.060 g | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.084 g | C(CCC)(=O)Cl | C4H7ClO
reactant | N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino)benzamide | 0.300 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)N)NCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H23N3O3S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-benzenesulfonyl-3-(biphenyl-4-ylmethylamino)-4-butyrylaminobenzamide | 0.250 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(CCC)=O)NCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H29N3O4S
